US05296485
3-(N-benzyl-N-methylamino)-1-(4-nitrophenyl)piperidine
20.0 g (90 mmol) of 3-hydroxy-1-(4-nitrophenyl)piperidine, 7.1 g (90 mmol) of pyridine and 56.0 g (270 mmol) of dicyclohexylcarbodiimide were dissolved in a mixture of 100 ml of anhydrous dimethyl sulfoxide and 200 ml of anhydrous toluene. The solution was cooled to 0° C. and then 3.4 ml (45 mmol) of trifluoroacetic acid were added dropwise, after which the resulting mixture was stirred at about 20° C. for 16 hours and subsequently diluted with water. The organic phase was separated off and worked up to the product as usual.

reactant | 3-hydroxy-1-(4-nitrophenyl)piperidine | 90 mmol, 20.0 g | OC1CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H14N2O3
reactant | pyridine | 90 mmol, 7.1 g | N1=CC=CC=C1 | C5H5N
reactant | dicyclohexylcarbodiimide | 270 mmol, 56.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trifluoroacetic acid | 45 mmol, 3.4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(N-benzyl-N-methylamino)-1-(4-nitrophenyl)piperidine | C(C1=CC=CC=C1)N(C)C1CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C19H23N3O2
